US05508467
Stage 1: Preparation of 2-chloroethyl 2-nitrophenylcarbamate
135 g of calcium carbonate are added to a solution of 345.3 g of 2-nitroaniline in a mixture of 1020 g of monoethylene glycol dimethyl ether and 150 g of water and the mixture is heated to 78° C. 375 g of 2-chloroethyl chloroformate are then added in the course of 3 hours. The mixture is subsequently stirred at the reflux temperature for 1.5 hours, until the reaction is complete, and is cooled to 35° C., and the product is precipitated with water and ice. The product is filtered off, washed with water and dried.

reactant | calcium carbonate | 135 g | C([O-])([O-])=O.[Ca+2]
reactant | 2-nitroaniline | 345.3 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | 2-chloroethyl chloroformate | 375 g | ClC(=O)OCCCl | C3H4Cl2O2
solvent | monoethylene glycol dimethyl ether | 1020 g | COCCOC | C4H10O2
solvent | water | 150 g | O | H2O
product | 2-chloroethyl 2-nitrophenylcarbamate | [N+](=O)([O-])C1=C(C=CC=C1)NC(OCCCl)=O | C9H9ClN2O4
